US07005526B2
To a mixture of 13.0 g (50.5 mmol) (4-allyloxy-phenyl)-methanethiol and 13.5 g (50.5 mmol) toluene-4-sulfonic acid 2-[1,2,3]triazol-1-yl-ethyl ester in 125 ml N,N-dimethylformamide was added under argon at −30° C. 2.42 g (101 mmol) sodium hydride. The mixture was allowed to warm up to room temperature and was stirred under argon for 12 hours. After quenching with 100 ml water, the mixture was diluted with dichloromethane, washed with water, dried and evaporated. Purification on silica after elution with ethyl acetate/heptane 1:1 yielded 12.0 g (86%) 1-[2-(4-allyloxy-benzylsulfanyl)-ethyl]-1H[1,2,3]triazole as slightly yellow oil.

reactant | (4-allyloxy-phenyl)-methanethiol | 50.5 mmol, 13.0 g | C(C=C)OC1=CC=C(C=C1)CS | C10H12OS
reactant | toluene-4-sulfonic acid 2-[1,2,3]triazol-1-yl-ethyl ester | 50.5 mmol, 13.5 g | N1(N=NC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C11H13N3O3S
reactant | sodium hydride | 101 mmol, 2.42 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
product | 1-[2-(4-allyloxy-benzylsulfanyl)-ethyl]-1H[1,2,3]triazole | 12.0 g, 86% | C(C=C)OC1=CC=C(CSCCN2N=NC=C2)C=C1 | C14H17N3OS
